US07037911B2
Step A: (6S,8R)-8-Benzyloxycarbonylamino-1-chloro-8-methyl-4-oxo-3-(3-trifluoromethyl-benzyloxy)-4,6,7,8-tetrahydro-pyrrolo[1,2-a]pyrazine-6-carboxylic acid.
In a flask (6S,8R)-8-benzyloxycarbonylamino-1-chloro-8-methyl-4-oxo-3-(3-trifluoromethyl-benzyloxy)-4,6,7,8-tetrahydro-pyrrolo[1,2-a]pyrazine-6-carboxylic acid ethyl ester (50 mg, 0.0862 mmol) was dissolved in THF (800 μL) and 2 drops MeOH and cooled to 0° C. Lithium hydroxide (260 μL, 0.259 mmol) 1.0 M in water was added and the mixture allowed to stir for approximately 2 h at 0° C. TLC indicated complete reaction. The mixture was diluted with EtOAc and 5% citric acid was added. The mixture was separated and the aqueous layer extracted 1× with EtOAc. The organics were dried with Na2SO4 filtered and concentrated to give the product as a white solid (47 mg, 99% yield). 1HNMR (300 MHz, CD3OD) δ 1.6(s, 3H) 2.25 (m, 1H) 2.95(m, 1H) 4.63 (s, 2H) 5.05 (m, 2H) 7.25–7.8 (m, 9H)

reactant | (6S,8R)-8-benzyloxycarbonylamino-1-chloro-8-methyl-4-oxo-3-(3-trifluoromethyl-benzyloxy)-4,6,7,8-tetrahydro-pyrrolo[1,2-a]pyrazine-6-carboxylic acid ethyl ester | 0.0862 mmol, 50 mg | C(C)OC(=O)[C@@H]1C[C@@](C=2N1C(C(=NC2Cl)OCC2=CC(=CC=C2)C(F)(F)F)=O)(C)NC(=O)OCC2=CC=CC=C2 | C27H25ClF3N3O6
reactant | Lithium hydroxide | 0.259 mmol, 1.0 M, 260 μL | [OH-].[Li+]
solvent | THF | 800 μL | C1CCOC1 | C4H8O
catalyst | MeOH | 2 drops | CO | CH4O
solvent | water | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
product | (6S,8R)-8-Benzyloxycarbonylamino-1-chloro-8-methyl-4-oxo-3-(3-trifluoromethyl-benzyloxy)-4,6,7,8-tetrahydro-pyrrolo[1,2-a]pyrazine-6-carboxylic acid | 47 mg, 99% yield | C(C1=CC=CC=C1)OC(=O)N[C@@]1(C[C@H](N2C1=C(N=C(C2=O)OCC2=CC(=CC=C2)C(F)(F)F)Cl)C(=O)O)C | C25H21ClF3N3O6
